US04026896
184 Milligrams of 4-(3'-methoxy-4'-propoxycinnamoylamino)phenylacetic acid were dissolved in an alcohol and an equivalent amount of sodium hydroxide was added to the solution. The solution was warmed for 30 minutes. After cooling, ether was added to the solution and the precipitated crystals were collected by filtration to obtain sodium 4-(3'-methoxy-4'-propoxycinnamoylamino)phenylacetate.

reactant | 4-(3'-methoxy-4'-propoxycinnamoylamino)phenylacetic acid | COC=1C=C(C=CC(=O)NC2=CC=C(C=C2)CC(=O)O)C=CC1OCCC | C21H23NO5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
product | sodium 4-(3'-methoxy-4'-propoxycinnamoylamino)phenylacetate | COC=1C=C(C=CC(=O)NC2=CC=C(C=C2)CC(=O)[O-])C=CC1OCCC.[Na+] | InChI=1S/C21H23NO5.Na/c1-3-12-27-18-10-6-15(13-19(18)26-2)7-11-20(23)22-17-8-4-16(5-9-17)14-21(24)25;/h4-11,13H,3,12,14H2,1-2H3,(H,22,23)(H,24,25);/q;+1/p-1
